US08106070B2
Manganese (IV) oxide (activated, Aldrich) (4.04 g, 46.5 mmol) was added to a solution of [2-(4-bromophenyl)cyclopent-1-en-1-yl]methanol (3.36 g, 13.3 mmol) in chloroform (25 mL) at ambient temperature. After stirring at reflux overnight, the reaction was filtered through celite (rinsing with methylene chloride) and concentrated. Chromatography over silica eluting with 0-20% ethyl acetate/hexane afforded 2-(4-bromophenyl)cyclopent-1-ene-1-carbaldehyde as an off-white solid.

reactant | [2-(4-bromophenyl)cyclopent-1-en-1-yl]methanol | 13.3 mmol, 3.36 g | BrC1=CC=C(C=C1)C1=C(CCC1)CO | C12H13BrO
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese (IV) oxide | 46.5 mmol, 4.04 g | [O-2].[Mn+4].[O-2]
product | 2-(4-bromophenyl)cyclopent-1-ene-1-carbaldehyde | BrC1=CC=C(C=C1)C1=C(CCC1)C=O | C12H11BrO
